US07858796B2
3-{1-[(2-chloroethyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide was prepared according to the procedure for intermediate 11. 3-(4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide (30 mg, 0.09 mmol) was reacted with triethyl amine (0.04 mL, 0.27 mmol) and 2-chloroethylsulfonyl chloride (0.02 mL, 0.18 mmol) to give 3-{1-[(2-chloroethyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide, which was used in the next step without further purification.

reactant | 3-(4-piperidinyl)-5-(2-thienyl)-1H-indole-7-carboxamide | 0.09 mmol, 30 mg | N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C18H19N3OS
reactant | triethyl amine | 0.27 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethylsulfonyl chloride | 0.18 mmol, 0.02 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
product | 3-{1-[(2-chloroethyl)sulfonyl]-4-piperidinyl}-5-(2-thienyl)-1H-indole-7-carboxamide | ClCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C=1SC=CC1)C(=O)N | C20H22ClN3O3S2
